US07781454B2
3-chloro-5-({5-chloro-1-[(7-oxido-1H-pyrazolo[3,4-b]pyridin-3-yl)methyl]-1H-indazol-4-yl}oxy)benzonitrile
To a suspension of 3-chloro-5-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-indazol-4-yl]oxy}benzonitrile (96 mg, 0.221 mmol) was added mCPBA (59.8 mg, 0.243 mmol) and stirred at room temperature for 18 hours. The suspension was concentrated in vacuo and then resuspended in DMF (5 mL). This suspension was filtered and then purified by reverse phase HPLC (Luna column, 10μ, C18, 250×21.2 cm) eluting with 5-95% ACN/water with 0.1% TFA). The desired fractions were concentrated to dryness and the resulting solid was suspended in MeOH (1 mL) and filtered to give the title compound.

reactant | 3-chloro-5-{[5-chloro-1-(1H-pyrazolo[3,4-b]pyridin-3-ylmethyl)-1H-indazol-4-yl]oxy}benzonitrile | 0.221 mmol, 96 mg | ClC=1C=C(C#N)C=C(C1)OC1=C2C=NN(C2=CC=C1Cl)CC1=NNC2=NC=CC=C21 | C21H12Cl2N6O
reactant | mCPBA | 0.243 mmol, 59.8 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
product | 3-chloro-5-({5-chloro-1-[(7-oxido-1H-pyrazolo[3,4-b]pyridin-3-yl)methyl]-1H-indazol-4-yl}oxy)benzonitrile | ClC=1C=C(C#N)C=C(C1)OC1=C2C=NN(C2=CC=C1Cl)CC1=NNC2=[N+](C=CC=C21)[O-] | C21H12Cl2N6O2
